US04107308
6-Methyl-4-(methylthio)-imidazo[1,5-d]-as-triazine
To a solution of 0.23 gm. of sodium in 10 ml. of methanol is added 1.66 gm. of 6-methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione with warming to produce a solution. The mixture is cooled to room temperature and 0.75 ml. of methyl iodide is added. Cooling overnight gives a solid which is recrystallized from a mixture of 20 ml. of acetone and 6 ml. of ethanol and treated with charcoal. This solid is recrystallized from 20 ml. of ethanol, giving the desired product, m.p. 182.5°-184° C.

reactant | sodium | [Na] | Na
reactant | 6-methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC1=NC=C2N1C(NN=C2)=S | C6H6N4S
reactant | methyl iodide | CI | CH3I
solvent | methanol | CO | CH4O
product | 6-Methyl-4-(methylthio)-imidazo[1,5-d]-as-triazine | CC1=NC=C2N1C(=NN=C2)SC | C7H8N4S
